US08207172B2
Preparation of 3-(2-bromoethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To 10 mL CH2Cl2 cooled to 0° C. was added 2-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl]ethanol (295 mg, 0.57 mmol) followed by thionyl bromide (0.11 mL, 1.41 mmol), and the contents allowed to stir with warming to rt. After 4 h stirring at rt, the contents were diluted with H2O (10 mL). The layers were separated and the aqueous layer extracted with CH2Cl2 (3×10 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was triturated from methanol to afford the final product (205 mg, 62%) as an off-white solid. 1H-NMR (DMSO-d6) δ 3.09 (t, 2H), 3.39 (t, 2H), 3.85 (m, 2H), 4.52 (m, 2H), 5.24 (s, 2H), 7.14-7.34 (m, 4H), 7.40-7.53 (m, 2H), 7.75 (s, 1H), 7.79 (d, 1H), 8.35 (s, 1H), 8.40 (s, 1H); LCMS RT=3.82 min; [M+H]+=584.0, 586.0.

reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | 2-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl]ethanol | 0.57 mmol, 295 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=C1C1=C(C=3C=NN(C3CC1)CCO)S2 | C26H21ClFN5O2S
reactant | thionyl bromide | 1.41 mmol, 0.11 mL | S(=O)(Br)Br | Br2OS
solvent | H2O | 10 mL | O | H2O
product | 3-(2-bromoethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 205 mg, 62% | BrCCN1N=CC=2C3=C(CCC12)C=1C(S3)=NC=NC1NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C26H20BrClFN5OS
